US05001275
Synthesis of 1-(3-methylbutoxy)methyl-3-nitrobenzene (Compound No. 2)
158.1 g (0.92 mol) of 3-nitrobenzyl chloride was dissolved in a mixture of 500 ml (4.59 mol, 5 equivalents) of 3-methyl-1-butanol and 140 ml of dimethylformamide. To the resultant mixture 78 g (1.39 mol, 1.5 equivalents) of KOH pellets were added while the mixture was being cooled in a water bath and stirred strongly. The reaction temperature was elevated to 43° C. and thereafter gradually restored to room temperature. After the mixture was stirred for 7 hours at room temperature, the reaction was completed.

reactant | 3-nitrobenzyl chloride | 0.92 mol, 158.1 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | 3-methyl-1-butanol | 4.59 mol, 500 ml, 5 equivalents | CC(CCO)C | C5H12O
reactant | KOH | [OH-].[K+]
solvent | dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
product | 1-(3-methylbutoxy)methyl-3-nitrobenzene | CC(CCOCC1=CC(=CC=C1)[N+](=O)[O-])C | C12H17NO3
